data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][C:21]1([CH+:22]C=CC2=C1C=C(C=C2)S(=O)(=O)O)[N+](=O)[O-].OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=CC2=C(C=C(C=C2)S(=O)(=O)O)[C:21](=[CH:22]1)[N+](=O)[O-] 10=20;20,21=21,22
CC1=CC=C(C=C1)S(=O)(=O)OC(C)CCC[OH:10].[O:21]=[P:20](Cl)(Cl)Cl>>CC1=CC=C(C=C1)S(=O)(=O)OC(C)CCC[OH+:10][P:20]([O-:21])(Cl)(Cl)Cl 10=20;20,21=21
CC12CCC(=O)C=C1CCC3C2CC[C:10]4(C3CC5C[C:20](=[O:21])[C:11]4(O5)[O-:12])C>>CC12CCC(=O)C=C1CCC3C2CC[C:10]4(C3CC5C[C:20]4([C:11](=[O:12])O5)[O-:21])C 10,11=10,20;12=11;20,21=21
[B-]([O+:21]1CC[O:10][CH2:20]1)(F)(F)F>>[B-]([O:21]CC[O+:10]=[CH2:20])(F)(F)F 10=20;20,21=21
C[P:10](C)C.[C:21](I)(I)(I)[I:20]>>C[P+:10](C)(C)[I:20].[C-:21](I)(I)I 10=20;20,21=21
CC[CH:20]([C:10]1=[C:11](OC(OC1=O)(C)C)[O-:12])[NH+:21](C)CC(=O)O.CC(=O)[O-]>>CC[CH:20]=[C:10]1C(=O)OC(O[C:11]1=[O:12])(C)C.C[NH:21]CC(=O)O.CC(=O)[O-] 10,11=10,20;20,21=21;12=11
C[S+:21]1C[CH2:20]1.[Br-:10]>>C[S:21]C[CH2:20][Br:10] 10=20;20,21=21
[H:20][O+:21]=C(C)CCNCC.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CCNCCC(=[O:21])C 10=20;20,21=21
CC(C)[CH:10](C)[Cl+:11][Al-](Cl)(Cl)Cl>>C[CH+:10]C(C)C.[Al-](Cl)(Cl)(Cl)[Cl:11] 10,11=11
C[C:20](=[O:21])C1=C(C=CC=C1)F.[CH2:10]=[C:11](C1=C(C=CC=C1)F)[O-:12]>>C[C:20]([CH2:10][C:11](=[O:12])C1=C(C=CC=C1)F)(C2=C(C=CC=C2)F)[O-:21] 10,11=10,20;20,21=21;12=11
C=CCC[OH+][P:20]([O-:10])(Cl)(Cl)[Cl:21]>>C=CCC[OH+][P:20](=[O:10])(Cl)Cl.[Cl-:21] 10=20;20,21=21
[H:20][OH+:21]C.CC(=O)O[Si-](C)(C)(C)[O:10]C>>[H:20][O+:10](C)[Si-](C)(C)(C)OC(=O)C.C[OH:21] 10=20;20,21=21
CCO[C:20](=[O:21])CCC[O-:10]>>CCO[C:20]1(CCC[O:10]1)[O-:21] 10=20;20,21=21
CCC1C2=C(C=CC=C2)[C:20](O1)([C:21]#N)[O-:10].[Na+]>>CCC1C2=C(C=CC=C2)[C:20](=[O:10])O1.[C-:21]#N.[Na+] 10=20;20,21=21
[H:20][CH:21]([C:22](=[O:23])C)C(=O)OC.[H:10][Na:11]>>C[C:22](=[CH:21]C(=O)OC)[O-:23].[H:10][H:20].[Na+:11] 10,11=10,20;22,23=23;20,21=21,22
C[C:20]1=[S+:21]CCS1.[OH2:10]>>C[C:20]1(SCC[S:21]1)[OH2+:10] 10=20;20,21=21
[H:20][OH2+:21].CCC(C)C1=C2CN3C(=CC4=C(C3=O)C[O:10]C(C4(CC)O)(O)O)C2=NC5=C1C=C(C=C5)CCCC(C)C>>[H:20][O+:10]1CC2=C(C=C3C4=NC5=C(C=C(C=C5)CCCC(C)C)C(=C4CN3C2=O)C(C)CC)C(C1(O)O)(CC)O.[OH2:21] 10=20;20,21=21
COCC1C(C(C(C(O1)S(=[O+][S:20](=O)(C)([O-:10])[O:21]S(=O)(=O)C)C2=CC=CC=C2)OC)OC)OC.CC1=C(CCC(C1)(C)CO)O[Si](C(C)C)(C(C)C)C(C)C.CC1=CC(=NC(=C1)C(C)(C)C)C(C)(C)C>>COCC1C(C(C(C(O1)S(=[O+][S:20](=O)(=[O:10])C)C2=CC=CC=C2)OC)OC)OC.CS(=O)(=O)[O-:21].CC1=C(CCC(C1)(C)CO)O[Si](C(C)C)(C(C)C)C(C)C.CC1=CC(=NC(=C1)C(C)(C)C)C(C)(C)C 10=20;20,21=21
[H:20][O:21]C.CCCC(CC(=O)OC(C)(C)C)C[O-:10]>>[H:20][O:10]CC(CCC)CC(=O)OC(C)(C)C.C[O-:21] 10=20;20,21=21
CC(=O)C[CH:20]([NH:10]C)[OH2+:21]>>CC(=O)C[CH:20]=[NH+:10]C.[OH2:21] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CCC1CC[C:11](=[CH:10]1)C>>[H:20][CH:10]1C(CC[C+:11]1C)CC.OS(=O)(=O)[O-:21] 10,11=10,20;20,21=21
CCC1[CH:20]([Br+:21]1)C.[OH2:10]>>CCC([CH:20](C)[OH2+:10])[Br:21] 10=20;20,21=21
[H:20][C:21]1(C=C(O[CH+:22]1)C(=O)C)Br.[Br-:10]>>[H:20][Br:10].CC(=O)C1=C[C:21](=[CH:22]O1)Br 10=20;20,21=21,22
CCO[CH:11]([N:10]=[C:20](C1CCCC1)[S:21](=O)(=O)C2CCC(CC2)C)[O-:12]>>CCO[CH:11]=[O:12].CC1CCC(CC1)[S-:21](=O)=O.C1CCC(C1)[C:20]#[N:10] 10,11=10,20;20,21=21;12=11
CCCCCCC[CH:20]=[O:21].C1=CC=[C:10](C=C1)[Mg:11]Br>>CCCCCCC[CH:20]([C:10]1=CC=CC=C1)[O-:21].[Mg+:11]Br 10,11=10,20;20,21=21
CCC(C)[OH:10].[O:21]=[S:20](Cl)Cl>>CCC(C)[OH+:10][S:20]([O-:21])(Cl)Cl 10=20;20,21=21
[H:20][O+:21](N=C(CC(=O)NC(C1=CC=CC=C1)C(=O)OCC)N)S(=O)(C)([O-])Cl.C1=CC=[N:10]C=C1>>[H:20][N+:10]1=CC=CC=C1.CCOC(=O)C(C1=CC=CC=C1)NC(=O)CC(=N[O:21]S(=O)(C)([O-])Cl)N 10=20;20,21=21
[CH2+:20][S-:10]>>[CH2:20]=[S:10] 10=20,
[H:20][C:21]1(CCC[C:22]1=[O:23])C(C)O.[OH-:10]>>[H:20][OH:10].CC([C:21]1=[C:22](CCC1)[O-:23])O 10=20;22,23=23;20,21=21,22
[CH:10](=[NH2+:11])S>>[CH+:10]([NH2:11])S 10,11=11
CC1=C(S[C:11](=[C:10](C2=CC=C(C=C2)F)O)[N:12]1CC3=CC=CC=C3)CCO.CC(=O)OC[C:22](=[O:23])[CH:21]=[CH2:20].CC[NH+](CC)CC.[Cl-]>>CC1=C(S[C:11](=[N+:12]1CC2=CC=CC=C2)[C:10]([CH2:20][CH:21]=[C:22](COC(=O)C)[O-:23])(C3=CC=C(C=C3)F)O)CCO.CC[NH+](CC)CC.[Cl-] 10,11=10,20;12=11;22,23=23;20,21=21,22
C=C[C:20](C#N)([O-:10])[Cl:21]>>C=C[C:20](=[O:10])C#N.[Cl-:21] 10=20;20,21=21
[H:20][C:21]1([CH+:22]C(=CO1)C#N)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.[CH:22]1=[C:21](OC=C1C#N)S(=O)(=O)O 10=20;20,21=21,22
[H:20][NH2:21].C1=[C-:10]C(=CN=C1)N>>[H:20][C:10]1=CC=NC=C1N.[NH2-:21] 10=20;20,21=21
CC=C[CH:20]=[O:21].C1C2C(C3=C1C=CC=C3)N4[C-:10]=[N+](N=C4CO2)C5=C(C(=C(C(=C5F)F)F)F)F.[B-](F)(F)(F)F.C1CCC2=[NH+]CCCN2CC1.C1=CC=C(C=C1)C=C(C(=O)C2=CC=CC=C2)C(=O)C3=CC=CC=C3.C1=CC=C(C=C1)C(=O)C(=CC2=CC=C(C=C2)Br)C(=O)C3=CC=CC=C3>>CC=C[CH:20]([C:10]1=[N+](N=C2N1C3C(CC4=C3C=CC=C4)OC2)C5=C(C(=C(C(=C5F)F)F)F)F)[O-:21].[B-](F)(F)(F)F.C1CCC2=[NH+]CCCN2CC1.C1=CC=C(C=C1)C=C(C(=O)C2=CC=CC=C2)C(=O)C3=CC=CC=C3.C1=CC=C(C=C1)C(=O)C(=CC2=CC=C(C=C2)Br)C(=O)C3=CC=CC=C3 10=20;20,21=21
[H:20][C:21]1([CH+:22]C(=CO1)C(F)(F)F)Br.[Br-:10]>>[H:20][Br:10].[CH:22]1=[C:21](OC=C1C(F)(F)F)Br 10=20;20,21=21,22
